US06339089B2
2-Chloro-4-(2-carbamoylethylamino)-7-methylthieno[3,2-d]pyrimidine
In 10 ml of DMF, 1.0 g (4.9 mmol) of 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine was dissolved, and then 668 mg (5.37 mmol) of β-alanineamide hydrochloride and 1.09 g (10.7 mmol) of triethylamine were added thereto under ice cooling. The reaction solution was stirred at 0° C. for one hour and then allowed to resume room temperature, followed by stirring for further 1 hour. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1/8) to give 1.05 g (yield: 79.8%) of the title compound.

reactant | 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine | 4.9 mmol, 1.0 g | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | β-alanineamide hydrochloride | 5.37 mmol, 668 mg | Cl.NCCC(=O)N
reactant | triethylamine | 10.7 mmol, 1.09 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-4-(2-carbamoylethylamino)-7-methylthieno[3,2-d]pyrimidine | 1.05 g, yield: 79.8% | ClC=1N=C(C2=C(N1)C(=CS2)C)NCCC(N)=O | C10H11ClN4OS
